US06114325
[2-[[N-[3-(Dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride (Compound 3)
4N Hydrochloric acid--ethyl acetate solution (0.19 ml) was added to a solution of [2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide (0.20 g) in ethyl acetate (4 ml) while being cooled with ice. After being stirred for 10 minutes, the deposited crystals were dissolved with ethanol and the solution was concentrated. The residue was recrystallized from ethyl acetate, thereby yielding 0.21 g of the aimed compound as white crystals.

reactant | Hydrochloric acid | 4N | Cl | ClH
reactant | [2-[[N-[3-(dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide | 0.20 g | CN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C | C32H57N3O3
reactant | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 0.19 ml | C(C)(=O)OCC | C4H8O2
product | [2-[[N-[3-(Dimethylamino)propyl]carbamoyloxy]methyl]phenyl]-N-octadecylformamide hydrochloride | 0.21 g | Cl.CN(CCCNC(=O)OCC1=C(C=CC=C1)N(C=O)CCCCCCCCCCCCCCCCCC)C | InChI=1S/C32H57N3O3.ClH/c1-4-5-6-7-8-9-10-11-12-13-14-15-16-17-18-21-27-35(29-36)31-24-20-19-23-30(31)28-38-32(37)33-25-22-26-34(2)3;/h19-20,23-24,29H,4-18,21-22,25-28H2,1-3H3,(H,33,37);1H
